US04729781
To a solution of 86.34 g. of sodium hydroxide in 1.2 W of water was added 900 ml. of 95% ethanol and 240 g. of 3,6-dichloro-2-methoxybenzohydroxamic acid. To aid dissolution, an additional 300 ml. 95% ethanol and 60 ml. H2O were added. A solution of 153.12 g. bromoacetic acid in 120 ml. of 95% ethanol was then added to the reaction mixture over 0.5 hours, followed by 60 ml. of water. The mixture was then heated to reflux for 3 hours, cooled to ambient temperature, and 150 ml. 20% HCl added. The reaction mixture was then extracted twice with ethyl acetate. The ethyl acetate solutions were combined, washed with brine, and dried over MgSO4 overnight, then filtered and solvent evaporated in vacuo. The residue was crystallized from chloroform to yield [(3,6dichloro-2methoxybenzoyl)aminooxy]acetic acid as a white solid in two crops (m.p. 145°-154° C.).

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 3,6-dichloro-2-methoxybenzohydroxamic acid | ClC=1C(=C(C(=O)NO)C(=CC1)Cl)OC | C8H7Cl2NO3
reactant | bromoacetic acid | BrCC(=O)O | C2H3BrO2
reactant | HCl | Cl | ClH
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | [(3,6dichloro-2methoxybenzoyl)aminooxy]acetic acid | ClC=1C(=C(C(=O)NOCC(=O)O)C(=CC1)Cl)OC | C10H9Cl2NO5
